** sch_path: /foss/designs/PROJECTS/os-ina-pso-mixdes_2026/SMACD Results/Simulations/Schematics/FDDA_CMFB_lvs_v3.sch
.subckt FDDA_CMFB_lvs_v3 V_B2 VDD VSS V_B4 V_B3 V_B1 V_PP V_PN V_NP V_NN V_OP VCM V_ON
*.PININFO V_B2:B VDD:B VSS:B V_B4:B V_B3:B V_B1:B V_PP:I V_PN:I V_NP:I V_NN:I V_OP:O VCM:B V_ON:O
XA5 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA6 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB7 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB8 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA9 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA10 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA11 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA12 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB9 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB10 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB11 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB12 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA15 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA16 V_SUM_N V_PN net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB13 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB14 V_SUM_P V_PP net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB49 net1 net1 net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA49 net1 net1 net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA50 net1 net1 net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB50 net1 net1 net1 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA1 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA2 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB1 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB2 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA3 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA4 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA7 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA8 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB3 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB4 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB5 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB6 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA33 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA34 V_SUM_P V_NN net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB31 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB32 V_SUM_N V_NP net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB51 net2 net2 net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA51 net2 net2 net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XA52 net2 net2 net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XB52 net2 net2 net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=9.46 nf=1 ad=2.7434 as=2.7434 pd=19.5 ps=19.5 nrd=0.0306553911205074
+ nrs=0.0306553911205074 sa=0 sb=0 sd=0 mult=1 m=1
XJ9 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ10 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO9 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO10 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO11 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO12 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ11 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ12 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ13 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ14 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO13 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO14 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO15 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO16 V_PAD V_OP V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ15 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ16 V_CMFB VCM V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ25 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ26 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO25 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO26 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO27 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO28 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ27 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ28 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ29 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ30 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO29 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO30 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO31 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO32 V_NAD V_ON V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ31 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ32 V_CMFB VCM V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ33 V_PA V_PA V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO33 V_PA V_PA V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XJ34 V_NA V_NA V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO34 V_NA V_NA V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO35 V_PA V_PA V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO36 V_PA V_PA V_PA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO37 V_NA V_NA V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XO38 V_NA V_NA V_NA VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1.36 nf=1 ad=0.3944 as=0.3944 pd=3.3 ps=3.3 nrd=0.213235294117647
+ nrs=0.213235294117647 sa=0 sb=0 sd=0 mult=1 m=1
XMP11 net1 V_B1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.7 W=2.55 nf=1 ad=0.7395 as=0.7395 pd=5.68 ps=5.68 nrd=0.113725490196078
+ nrs=0.113725490196078 sa=0 sb=0 sd=0 mult=1 m=1
XMP12 net2 V_B1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.7 W=2.55 nf=1 ad=0.7395 as=0.7395 pd=5.68 ps=5.68 nrd=0.113725490196078
+ nrs=0.113725490196078 sa=0 sb=0 sd=0 mult=1 m=1
XMP5 V_NE V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMP6 V_PE V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMP7 V_ON V_B4 V_NE VDD sky130_fd_pr__pfet_01v8 L=1 W=0.69 nf=1 ad=0.2001 as=0.2001 pd=1.96 ps=1.96 nrd=0.420289855072464
+ nrs=0.420289855072464 sa=0 sb=0 sd=0 mult=1 m=1
XMP8 V_OP V_B4 V_PE VDD sky130_fd_pr__pfet_01v8 L=1 W=0.69 nf=1 ad=0.2001 as=0.2001 pd=1.96 ps=1.96 nrd=0.420289855072464
+ nrs=0.420289855072464 sa=0 sb=0 sd=0 mult=1 m=1
XMN1 V_ON V_B3 V_SUM_P VSS sky130_fd_pr__nfet_01v8 L=3 W=0.66 nf=1 ad=0.1914 as=0.1914 pd=1.9 ps=1.9 nrd=0.439393939393939
+ nrs=0.439393939393939 sa=0 sb=0 sd=0 mult=1 m=1
XMN2 V_OP V_B3 V_SUM_N VSS sky130_fd_pr__nfet_01v8 L=3 W=0.66 nf=1 ad=0.1914 as=0.1914 pd=1.9 ps=1.9 nrd=0.439393939393939
+ nrs=0.439393939393939 sa=0 sb=0 sd=0 mult=1 m=1
XMN3 V_SUM_P V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=2.48 nf=1 ad=0.7192 as=0.7192 pd=5.54 ps=5.54 nrd=0.116935483870968
+ nrs=0.116935483870968 sa=0 sb=0 sd=0 mult=1 m=1
XMN4 V_SUM_N V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=2.48 nf=1 ad=0.7192 as=0.7192 pd=5.54 ps=5.54 nrd=0.116935483870968
+ nrs=0.116935483870968 sa=0 sb=0 sd=0 mult=1 m=1
XMN5 V_PA V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=2.48 nf=1 ad=0.7192 as=0.7192 pd=5.54 ps=5.54 nrd=0.116935483870968
+ nrs=0.116935483870968 sa=0 sb=0 sd=0 mult=1 m=1
XMN6 V_NA V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=2.48 nf=1 ad=0.7192 as=0.7192 pd=5.54 ps=5.54 nrd=0.116935483870968
+ nrs=0.116935483870968 sa=0 sb=0 sd=0 mult=1 m=1
XMP1 V_PAD V_PAD VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1.97 nf=1 ad=0.5713 as=0.5713 pd=4.52 ps=4.52 nrd=0.147208121827411
+ nrs=0.147208121827411 sa=0 sb=0 sd=0 mult=1 m=1
XMP2 V_CMFB V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=3.94 nf=1 ad=1.1426 as=1.1426 pd=8.46 ps=8.46 nrd=0.0736040609137056
+ nrs=0.0736040609137056 sa=0 sb=0 sd=0 mult=1 m=1
XMP3 V_NAD V_NAD VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1.97 nf=1 ad=0.5713 as=0.5713 pd=4.52 ps=4.52 nrd=0.147208121827411
+ nrs=0.147208121827411 sa=0 sb=0 sd=0 mult=1 m=1
.ends
